US09403835B2
Step 1: 5,6,7-trimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carboxylic acid tert-butyl ester
A mixture of 3-amino-2,6-dihydro-4H-pyrrolo[3,4-c]pyrazole-5-carboxylic acid tert-butyl ester (2.4 g; 10.7 mmol; 1 eq.) and 3-methyl-2,4-pentanedione (1.75 mL; 15 mmol; 1.4 eq.) in AcOH (25 mL) was stirred at room temperature for 18 hours. The solvent was evaporated in vacuo and the residue partitioned between ethyl acetate and sat. aq. NaHCO3. The organic layer was dried over sodium sulfate and concentrated in vacuo. The residue was triturated in ACN and the precipitate filtered off to afford the title compound (1.7 g, 52%) as a white solid. The mother liquor was concentrated in vacuo and the residue purified by column chromatography (DCM/EtOH, 95/5) to afford the title compound (1.5 g, 46%) as a white solid. 1H NMR (DMSO-d6) δ 4.59-4.53 (m, 4H), 3.34 (s, 6H), 2.27 (s, 3H), 1.47 (s, 9H). HPLC (max plot) 96.1%; Rt 3.92 min. UPLC/MS: (MS+) 303.1 ([M+H]+).

reactant | 3-amino-2,6-dihydro-4H-pyrrolo[3,4-c]pyrazole-5-carboxylic acid tert-butyl ester | 10.7 mmol, 2.4 g, 1 eq. | C(C)(C)(C)OC(=O)N1CC2=NNC(=C2C1)N | C10H16N4O2
reactant | 3-methyl-2,4-pentanedione | 15 mmol, 1.75 mL, 1.4 eq. | CC(C(C)=O)C(C)=O | C6H10O2
solvent | AcOH | 25 mL | CC(=O)O | C2H4O2
product | 5,6,7-trimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carboxylic acid tert-butyl ester | 1.7 g, 52% | C(C)(C)(C)OC(=O)N1CC=2C(=C3N=C(C(=C(N3N2)C)C)C)C1 | C16H22N4O2
